US07253158B2
2) [3-Fluoro-4-(2-morpholin-4-yl-ethoxy)-phenyl]-methanol
To lithium aluminium hydride (0.03 g, 0.90 mmol) suspended in dry THF (1 ml) and cooled to 0° C. under an argon atmosphere was added a solution of 3-fluoro-4-(2-morpholin-4-yl-ethoxy)-benzoic acid ethyl ester (0.15 g, 0.5 mmol) in dry THF (1 ml). The cold bath was removed and the reaction mixture further stirred for 2 h at r.t. The reaction mixture was cooled (0° C.) and quenched with NaHCO3 (½ sat., 2 ml) and further stirred for 0.5 h at r.t., filtered and concentrated under reduced pressure. The filtrate was dissolved in ethyl acetate and washed with water (2×), brine, dried (MgSO4) filtered and concentrated under reduced pressure: 0.12 g (86%);

reactant | lithium aluminium hydride | 0.90 mmol, 0.03 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-fluoro-4-(2-morpholin-4-yl-ethoxy)-benzoic acid ethyl ester | 0.5 mmol, 0.15 g | C(C)OC(C1=CC(=C(C=C1)OCCN1CCOCC1)F)=O | C15H20FNO4
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | [3-Fluoro-4-(2-morpholin-4-yl-ethoxy)-phenyl]-methanol | FC=1C=C(C=CC1OCCN1CCOCC1)CO | C13H18FNO3
